Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left elbow pain
 
Major Surgical or Invasive Procedure:
Phlebotomy 
Left elbow joint aspiration

 
History of Present Illness:
___ yo male referred to the ED by his PCP due to abnormal
CBC (elevated WBC, hemoglobin, and platelets). Pt saw his PCP
this AM to follow up on a UTI diagnosed and treated with an
antibiotic last week. He completed the course of abx 4 days ago. 

His UTI sx began while he was in ___ for three weeks starting
on ___. He developed gross hematuria and dysuria. He did 
not
seek medical attention there but upon return to ___ sought
care and was prescribed nitrofurantonin for 5 days from ___. He
went for f/u and saw his new PCP ___. (He does not go to
doctors ___ Prior to the development of the hematuria which
he thought was secondary to him eating bad fruit in ___ he 
was
feeling very well. 
During the visit, he mentioned L elbow pain and swelling which
started 3 days ago. PCP prescribed ibuprofen (400mg) which he
reports has decreased pain. Last dose was at 11 pm. Swelling and
erythema has worsened. Pt has had pain in his elbow in the past,
but never this bad or with swelling. He also denies trauma,
fever, or chills. He also reports L hand swelling last night
which has improved. About a year ago his L index finger was
swollen and resolved after daughter drained blood with an
acupuncture needle. He was also recently diagnosed with HTN and
prescribed losartan today. 

He reports cough when he lays down at night and ? reflux. 

Exam in the ED : No acute destress. Callus with circumferential
erythema and mild swelling of L elbow. Tender to palpation.
Decreased ROM and strength due to pain. Intact sensation and
pulses. Minimal L hand swelling, Heberden node on L index 
finger.
Full ROM of hand. Decreased strength. 

Weight loss, bleeding, nose bleeds,h/o anemia
ROS: 
He reports a distant history of epistaxis last ___ years ago. He
has lost ___ lbs. He reports recent increased fatigue. He is in
severe pain in his L elbow it is not worse than it has been, but
the initial improvement he felt after the joint was tapped has
gone away. He does not report fevers or shaking chills. He has
noticed easy bleeding when he brushes his teeth. He had nights
sweats from ___ - ___ but these have resolved. He
reports mild chest pain when he is cooking or moving around 
which
resolves after a second. It is not associated with diaphoresis,
nausea, palpitations or shortness of breath. He does not report
blurry vision when he wears his glasses. Per onc h/o dizziness
after showers. 

Pertinent positives and negatives as noted in the HPI.  All 
other
systems were reviewed and are negative. 
VS upon presentation: 
Yest 20:36 |10 |98.2 |68 |163/77 |16 |96% RA 
Tmax = ___
Meds given: 
___ 01:08 PO Acetaminophen 1000 mg ___  
___ 16:10 PO Colchicine ___  
___ 17:02 PO Colchicine .6 mg ___ 

Heme recs:
Please add on the following labs: 
 - Heme/onc smear for consultant review
 - LDH
 - Fibrinogen
 - Ca/Mg/Ph/Uric Acid
 
Past Medical History:
HTN
No other past medical history

 
Social History:
___
FAMILY HISTORY: 
His father died at ___ and his mother died at ___ of natural
causes. 

 
Family History:
His father died at ___ and his mother died at ___ of natural
causes. 

 
Physical Exam:
ADMISSION EXAM:
___ 1856 Temp: 98.5 PO BP: 153/76 HR: 69 RR: 18 O2
sat: 96% O2 delivery: RA  
GENERAL: Alert and pleasant. He looks very uncomfortable from 
his
elbow. 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK:  L elbow with increased erythema and pain with active and
passive range of motion. + effusion. ___. Site of tap c/d/I. 
Neck supple, moves all extremities, strength grossly full and
symmetric bilaterally in all limbs
? Resolved gouty tophus vs Herbeden's node at R index finger 
DIP.

SKIN: L elbow erythema noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
GENERAL: Alert and in no apparent distress
CV: Heart regular, normal perfusion, no JVD appreciated 
RESP: Normal respiratory effort with no stridor or labored
breathing.  
GI: Abdomen soft, non-distended, non-tender
MSK/Skin: left elbow with improved erythema, minimal swelling, 
full ROM,
non-tender
NEURO: Alert, oriented, face symmetric, no focal deficits
PSYCH: normal thought content, normal mood and affect 
 
Pertinent Results:
ELBOW (AP, LAT & OBLIQUE) LEFT Study Date of ___ 12:38 AM 

IMPRESSION: 
   
1. No evidence of fracture or dislocation in the left elbow. 
2. Moderate degenerative changes in the left elbow.  Small left 
elbow joint effusion. 
3. Spurs about the medial and lateral epicondyle and of the 
olecranon. 

EXAMINATION:  CHEST (PA AND LAT) ___
  
FINDINGS:  
Limited evaluation of the lateral chest radiograph due to low 
lung volumes.  Heart size is mildly enlarged.  The mediastinal 
and hilar contours are unremarkable normal.  The pulmonary 
vasculature is normal.  Mild patchy opacities in the lung bases 
may reflect atelectasis.  No focal consolidation.  No pleural 
effusion or pneumothorax is seen. There are no acute osseous 
abnormalities. 
  
IMPRESSION:  
  
Somewhat limited lateral view due to low lung volumes.  Patchy 
opacities in lung bases may reflect atelectasis.  Infection is 
not excluded in the correct clinical setting. 

CXR ___ FINDINGS:  
  
Compared to prior radiograph, the lungs are well expanded.  
There is unchanged  cardiomegaly, and the mediastinal contour is 
unchanged.  The aorta is  tortuous.  There is no evidence of 
pulmonary edema,  pneumothorax or pleural  effusion.  Improved 
right lower lobe opacities with mild residual opacification. 
  
IMPRESSION:  
Improved right lower lobe opacities with mild residual 
opacification. 

___ 09:32AM BLOOD WBC-32.0* RBC-8.61* Hgb-20.8* Hct-69.3* 
MCV-81* MCH-24.2* MCHC-30.0* RDW-22.7* RDWSD-59.7* Plt ___
___ 10:15PM BLOOD WBC-33.9* RBC-8.28* Hgb-19.9* Hct-64.9* 
MCV-78* MCH-24.0* MCHC-30.7* RDW-22.1* RDWSD-54.8* Plt ___
___ 05:55AM BLOOD WBC-35.5* RBC-7.90* Hgb-18.9* Hct-61.4* 
MCV-78* MCH-23.9* MCHC-30.8* RDW-21.8* RDWSD-54.3* Plt ___
___ 10:15PM BLOOD Neuts-87.1* Lymphs-3.6* Monos-4.8* 
Eos-1.2 Baso-2.2* NRBC-0.2* Im ___ AbsNeut-29.51* 
AbsLymp-1.21 AbsMono-1.63* AbsEos-0.41 AbsBaso-0.75*
___ 12:42AM BLOOD ___ PTT-47.7* ___
___ 05:55AM BLOOD ___ PTT-45.5* ___
___ 07:55AM BLOOD ___
___ 10:15PM BLOOD Glucose-87 UreaN-15 Creat-0.9 Na-135 
K-5.2 Cl-97 HCO3-25 AnGap-13
___ 05:55AM BLOOD Glucose-76 UreaN-14 Creat-0.9 Na-141 
K-4.5 Cl-99 HCO3-29 AnGap-13
___ 10:15PM BLOOD AlkPhos-134* TotBili-1.1
___ 07:55AM BLOOD ALT-21 AST-71* LD(LDH)-1032* AlkPhos-146* 
TotBili-1.5
___ 05:55AM BLOOD ALT-14 AST-19 LD(___)-315* CK(CPK)-43* 
AlkPhos-145*
___ 05:55AM BLOOD CK-MB-1 cTropnT-<0.01
___ 10:15PM BLOOD Albumin-3.7 Calcium-8.9 Phos-3.9 Mg-2.0 
UricAcd-7.2*
___ 07:55AM BLOOD Calcium-8.8 Phos-4.2 Mg-1.9 UricAcd-7.4* 
Iron-70
___ 09:32AM BLOOD Cholest-161
___ 07:55AM BLOOD calTIBC-296 ___ Ferritn-64 TRF-228
___ 09:32AM BLOOD %HbA1c-5.7 eAG-117
___ 09:32AM BLOOD Triglyc-82 HDL-50 CHOL/HD-3.2 LDLcalc-95
___ 09:32AM BLOOD TSH-1.5
___ 09:32AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 10:15PM BLOOD CRP-41.0*
___ 10:15PM BLOOD Lactate-1.7
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: 
___ yo M PMHx HTN who presented with L elbow pain and swelling, 
found to have acute gout flare, as well as CBC showing 
erythrocytosis, thrombosis and leukocytosis consistent with new 
diagnosis of polycythemia ___.

ACUTE/ACTIVE PROBLEMS:
# L ELBOW ERYTHEMA AND PAIN
# ACUTE GOUT FLARE:
The patient was seen by orthopedic surgery in the ED.  He 
underwent left elbow joint tap which showed only PMNs and no 
organisms on gram stain.  Joint cultures negative to date.  
Joint fluid did reveal negatively birefringement monosodium 
urate crystals consistent with gout flare.  He was seen by 
Rhematology in consultation.  He was treated with Colchicine 
0.6mg PO daily and Indomethacin 50mg PO TID x 3 doses on ___.  
He continues on colchicine at discharge.  He is scheduled to 
follow-up with Rhematology for consideration of uric acid 
lowering therapy in the future.

#LEUKOCYTOSIS/ERYTHROCYTOSIS/THROMBOCYTOSIS
#NIGHT SWEATS
#FATIGUE
#BLEEDING GUMS
#COAGULOPATHY

Lab findings are most consistent with Polycythemia ___.  The 
Hematology Oncology consult team saw him and recommended 
checking serum erythropoietin (EPO) levels. He had normal iron 
studies. Hematology said peripheral blood mutation screening for 
JAK2 will be sent as an outpatient.  Given patients CBC findings 
and symptoms consistent with polycythemia, he received 
phlebotomy in the ER on ___ and on the floor on ___ & ___ 
to achieve a hematocrit < 55%.  He was started on Aspirin 81mg 
PO daily and should continue this indefinitely.  He understands 
the rationale for taking this medicine. He does not smoke and 
understands that he is not supposed to smoke, especially with 
PCV.  He had no  evidence of tumor lysis. He is scheduled to 
follow-up with Hematology Oncology for further work-up and 
treatments.

#CHEST PAIN: Had an episode of chest pain while in hospital.  
___ have been secondary to hyperviscosity syndrome.  Cardiac 
enzymes and EKG did not show any evidence of ischemia; CXR 
showed atelectasis.  He had normal Hb A1C and total cholesterol 
of 161 with TSH 1.5.  

#HTN: continued home losartan

TRANSITIONAL ISSUES:
[] Repeat CBC weekly to follow blood counts
[] Ensure patient scheduled for weekly phlebotomy to achieve Hct 
< 55%
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 500 mg ___ tablet(s) by mouth q6h PRN Disp 
#*240 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
3.  Colchicine 0.6 mg PO DAILY 
RX *colchicine 0.6 mg 1 tablet(s) by mouth once a day Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute gout flare
Polycythemia ___

 
___ Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with left elbow pain.  You were found 
to have a gout flare in the elbow.  You were treated with a 
medication called colchicine.  You should continue to take 
cholchicine daily to reduce the change of having another gout 
flare.  

While in the hospital, you were noted to have elevated blood 
counts - elevation seen in the white blood cell counts, red 
blood cell counts and platelets.  This is consistent with a 
diagnosis of Polycythemia ___, a blood disorder.  You were seen 
by the Hematology Oncology Specialists for this problem.  You 
were started on a daily aspirin to reduce your risk of stroke.

Please continue to take aspirin and colchicine daily.  Please 
take Tylenol and oxycodone only as needed for pain.  Oxycodone 
can be sedating.  Do not take this medication before driving and 
do not take with alcohol.  Use sparingly.

Please follow-up with the Rheumatology doctors for further 
treatment of your gout.  Please follow-up with the Hematology 
Oncology doctors for further treatment of your Polycythemia ___ 
blood disorder.  Please follow-up with your Primary Care doctor 
for further monitoring.
 
Followup Instructions:
___